US08604050B2
16.2 N-(2-Hydroxymethylthiazolo[5,4-b]pyrid-6-yl)-5-trifluoromethyl-1-[(3-methyl-phenyl)methyl]-1H-indole-2-carboxamide (Compound 16)
To a solution of 150 mg (0.415 mmol) of ethyl 5-trifluoromethyl-1-[(3-methylphenyl)methyl]-1H-indole-2-carboxylate prepared according to the protocol described in the preceding step and 132 mg (0.498 mmol) of (6-amino-thiazolo[5,4-b]pyrid-2-yl)methyl 2,2-dimethylpropanoate, obtained in step 4.2, in 1.5 mL of dry toluene, maintained under an inert atmosphere, is added dropwise, at 0° C., 0.31 mL (0.623 mmol) of a trimethylaluminium solution (2M/toluene). The reaction mixture is stirred at 110° C. for 15 hours and then concentrated to dryness. The crude reaction product is then diluted with normal hydrochloric acid solution. The product is extracted with ethyl acetate and then purified by chromatography on a column of silica, eluting with a mixture of heptane and ethyl acetate, to give 82 mg of the expected product.

reactant | ethyl 5-trifluoromethyl-1-[(3-methylphenyl)methyl]-1H-indole-2-carboxylate | 0.415 mmol, 150 mg | FC(C=1C=C2C=C(N(C2=CC1)CC1=CC(=CC=C1)C)C(=O)OCC)(F)F | C20H18F3NO2
reactant | (6-amino-thiazolo[5,4-b]pyrid-2-yl)methyl 2,2-dimethylpropanoate | 0.498 mmol, 132 mg | CC(C(=O)OCC=1SC2=NC=C(C=C2N1)N)(C)C | C12H15N3O2S
reactant | trimethylaluminium | 0.623 mmol, 2M, 0.31 mL | C[Al](C)C
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | hydrochloric acid | Cl | ClH
product | N-(2-Hydroxymethylthiazolo[5,4-b]pyrid-6-yl)-5-trifluoromethyl-1-[(3-methyl-phenyl)methyl]-1H-indole-2-carboxamide | 82 mg | OCC=1SC2=NC=C(C=C2N1)NC(=O)C=1N(C2=CC=C(C=C2C1)C(F)(F)F)CC1=CC(=CC=C1)C | C25H19F3N4O2S
